US08058447B2
Cyclobutyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate
The title compound is prepared in analogy to example 25 (stage 25a) starting from 2-methyl-4-oxo-4H-chromene-8-carbaldehyde (2 g, 10.62 mmol) and cyclobutyl acetoacetate (1.66 g, 10.62 mmol). 3.4 g (98% of theory) of the title compound are obtained as an E/Z isomer mixture.

reactant | 2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 10.62 mmol, 2 g | CC=1OC2=C(C=CC=C2C(C1)=O)C=O | C11H8O3
reactant | cyclobutyl acetoacetate | 10.62 mmol, 1.66 g | C(CC(=O)C)(=O)OC1CCC1 | C8H12O3
product | Cyclobutyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)OC1CCC1)C(C)=O | C19H18O5
